US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 2-hydroxymethyl-4-(2-naphthylsulphonyl)piperazine to give 2-hydroxymethyl-4-(2-naphthylsulphonyl)-1-[1-(4-pyridyl) piperidin-4-ylcarbonyl]piperazine in 42% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 2-hydroxymethyl-4-(2-naphthylsulphonyl)piperazine | OCC1NCCN(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C15H18N2O3S
product | 2-hydroxymethyl-4-(2-naphthylsulphonyl)-1-[1-(4-pyridyl) piperidin-4-ylcarbonyl]piperazine | 42% yield | OCC1N(CCN(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C26H30N4O4S
